US08022062B2
2-Bromo-5-tert-butoxycarbonylaminomethyl-pyridine:
Add di-tert-butyl-dicarbonate (397 mg, 1.818 mmol) and triethylamine (0.507 mL, 3.636 mmol) to a solution of 5-aminomethyl-2-bromo-pyridine (340 mg, 1.818 mmol) in anhydrous dichloromethane (15 mL). Stir the solution overnight at room temperature. Dilute the reaction mixture with dichloromethane and wash with water. Extract the aqueous phase with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (4:1) to afford the title compound as a solid (322 mg, 62%).

reactant | di-tert-butyl-dicarbonate | 1.818 mmol, 397 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.636 mmol, 0.507 mL | C(C)N(CC)CC | C6H15N
reactant | 5-aminomethyl-2-bromo-pyridine | 1.818 mmol, 340 mg | NCC=1C=CC(=NC1)Br | C6H7BrN2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-Bromo-5-tert-butoxycarbonylaminomethyl-pyridine | 322 mg, 62% | BrC1=NC=C(C=C1)CNC(=O)OC(C)(C)C | C11H15BrN2O2
